US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-methoxycarbonylphenyl)carboxamide [76]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (100 mg) and commercially available monomethylterephthalic acid (130 mg) were dissolved in N,N-dimethylformamide (4 ml), 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (227 mg) was added, and the admixture was stirred at room temperature for 18 hours. The reaction mixture was then purified in the same manner as described in Example 51 to obtain 99 mg of the title compound (yield: 64%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | monomethylterephthalic acid | 130 mg | CC1=C(C(=O)O)C=CC(=C1)C(=O)O | C9H8O4
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 227 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-methoxycarbonylphenyl)carboxamide | 99 mg, yield: 64% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C(=O)OC | C26H22N2O6
